Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Tetracyclines / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
"I'm really anxious."
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ year-old engaged, man, currently a pathology 
resident with
reported past psychiatric history of depression and anxiety, no 
prior psychiatric hospitalizations or suicide attempts, and no 
significant past medical history, recently seen at ___ ED for 
severe anxiety with subsequent referral to ___, who 
self-presented to ___ ED again due to increasing panic attacks 
and frequent thoughts of self-harm in the setting of numerous 
ongoing psychosocial stressors. 
. 
Patient was recently evaluated by psychiatry here in the ED on 
___ after patient presented with worsening anxiety and 
thoughts of suicide by overdose or swallowing a sharp object, 
but denied any clear intent or plan. At the time patient 
endorsed occasional panic attacks centered around work, 
particularly after stressful days. It was felt that at that time 
patient was of low risk for self-harm and would most likely 
benefit from partial hospitalization in addition to taking a 
leave of absence from work given then level in which it was 
contributing to his anxiety.
. 
In the interim, patient has been attending is partial 
hospitalization program at ___ regularly. He states that 
during the two weeks he went 5 days weekly but then after that 
___ scaled it back to 3 days weekly. He feels that initially, 
particularly when he was attending the program 5 days weekly, he 
began feeling better after attending the partial. However, since
it was scaled back a week or two ago, patient has been 
experiencing increased panic attacks, stating that he had 
approximately ___ last week. He describes his panic attacks as 
sensations of severe anxiety during which he is tearful, 
hyperventilating, has a sensation of chest and throat tightness,
and feels flushed. He also states that he experiences a 
sensation of derealization, almost to the point where he feels 
like he is "having an out of body experience." 
. 
In terms of triggers for his panic attacks, patient states he 
has been experiencing daily, frequent, distressing thoughts of 
self-harm. Patient specifically states that these thoughts of 
self harm are centered around cutting himself or hitting 
himself. These thoughts are so distressing to the patient that 
they often lead him to feel overwhelmed, which then results in a 
panic attack. Patient states these thoughts are particularly bad 
and overwhelming whenever he is by himself at home, leading him 
to feel afraid for his safety to be alone. Other triggers for 
his anxiety have been feeling of guilt and shame over being on 
medical leave from work in addition to anxiety over going back 
to work. Patient is employed as a ___ resident and 
has been on medical leave since he started attending his partial 
hospitalization program. He states that the first week or so 
after attending the partial, he learned coping strategies such 
as mediation and dunking his face in cold water that provided 
substantial relief for his panic attacks. However, he shares 
that the last ___ panic attacks have been unresponsive to his 
coping strategies and he has started taking more of his PRN 
clonazepam (prescribed 0.5 mg BID PRN, has been taking 1 mg 
during a panic attack). 
. 
Patient reports that he had a panic attack today while attending 
his partial program. Due to the severity and increased frequency 
of his attacks, along with intrusive thoughts of self-harm, his 
partial suggested he come to the ED for evaluation. Patient 
declined transfer to the ED and went home. After talking it over 
with his fiancé, ___, they felt it was best that he come to 
the ED for evaluation. Patient states "I've done everything I 
possibly can on my own" and feels that he would benefit from 
inpatient psychiatric admission. 
. 
COLLATERAL: Spoke with patient's fiancé, ___, who was present 
at bedside
for the interview per patient's request. She confirmed the 
patient's history and felt that patient would benefit from an 
inpatient psychiatric admission."
. 
On interview today, patient states that he has been having 
significant anxiety, almost daily panic attacks, and intrusive 
thoughts of self harm for the past 1 month. He has a history of 
anxiety and mild depression going back to ___ year of medical 
school, but he states that it has never been this bad before. 
Patient did his intern year as an OB/GYN resident in ___ 
last year, and found this incredibly difficult. He had severe 
anxiety related to worrying about work. He found himself 
constantly worrying that he would hurt someone. He also had a 
traumatic event during this year of residency in which a patient 
of his unexpectedly died and then they attempted a perimortem 
C-section, but the baby died as well. Patient switched to a 
pathology residency at ___ which he began in ___. He thought 
that the lack of direct patient care would alleviate his 
anxiety, but he states that over the past month his anxiety and 
panic
attacks have been worse than ever. He mostly worries about work, 
both when he is there and once he gets home. He still worries 
that he will unintentionally hurt someone or that he is 
incompetent at his job. He has significant feelings of guilt and 
shame for the difficulty he is having in residency. He states "I 
feel like a failure."
. 
Patient states that for the past month he has had low mood, 
decreased concentration, anhedonia, fatigue, decreased appetite 
with resultant 13 lb weight loss over past month. He has been 
sleeping normal hours, but has vivid dreams about work and 
reliving his traumatic experience in OB/GYN and wakes up feeling 
anxious and poorly rested. He has nightmares and flashbacks of 
this experience. He states that every time he hears a pager go 
off, he feels as if he is back in that case. Patient states that 
for the past month he has had vague intrusive thoughts about 
self-harm, including thinking about cutting himself or hitting 
himself. He has not engaged in self-harm. He has also had vague 
ideas of suicide, without plan or intent.
. 
Patient denies any episodes of mania or hypomania, including 
periods of distractibility, erratic/risky behavior, grandiosity, 
flight of ideas, increased activity, decreased need for sleep, 
or talkativeness/pressured speech. He denies hallucinations or 
delusions. 
. 
REVIEW OF SYSTEMS:
-Psychiatric: as above
-General: Denies fever, chills, headache, changes in vision, 
SOB, CP, abdominal pain, dysuria, muscle pain.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: GAD, MDD
- Hospitalizations: None
- Partial hospitalizations: ___
- Psychiatrist: none currently. Currently seeing Dr. ___ 
___ employee assistance program.
- Therapist: none currently
-Medication trials: ___ (brief trial of about ___ weeks, did 
not find a huge benefit). Currently taking Prozac for past 
month-- has some nausea with it. Also reports history of sexual 
side effects on SSRI's 
-___ trials: none
-Suicide attempts: none
-Self-injurious behavior: none. but intrusive thoughts of
self-harm
-Harm to others: none
-Trauma: traumatic case when he was OB/GYN resident (see HPI)
-Access to weapons: none
. 
PAST MEDICAL HISTORY:
Mitral valve prolapse
PCP: Dr. ___ 
 
Social History:
___
Family History:
SOCIAL HISTORY: Born and raised in ___ with mother, 
father, and older
sister. Had a good childhood and an "amazing supportive family." 
No history of childhood trauma. Went to medical school and 
completed ___ year of OB/GYN residency in ___ before 
switching to pathology residency at ___. Lives with his 
fiancé, ___, who is supportive of him. 
.

 
Physical Exam:
VITAL SIGNS:
___ T 97.8 PO; BP 117 / 69; HR 59; RR 16; O2 98   

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, no murmurs
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-Coordination: Normal on finger to nose test, no intention 
tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good"
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: Short and long term memory grossly intact
I/J: fair/fair 

 
Pertinent Results:
___ 05:20PM   GLUCOSE-149* UREA N-15 CREAT-1.0 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-28 ANION GAP-14
___ 05:20PM   CHOLEST-183
___ 05:20PM   VIT B12-509
___ 05:20PM   %HbA1c-5.6 eAG-114
___ 05:20PM   TRIGLYCER-87 HDL CHOL-60 CHOL/HDL-3.1 
LDL(CALC)-106
___ 05:20PM   TSH-1.1
___ 05:20PM   WBC-5.9 RBC-5.17 HGB-13.9 HCT-44.2 MCV-86 
MCH-26.9 MCHC-31.4* RDW-13.4 RDWSD-41.6
___ 05:20PM   PLT COUNT-234
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:50PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-4* PH-6.5 
LEUK-NEG
___ 10:50PM URINE  RBC-1 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 10:50PM URINE  MUCOUS-FEW*
___ 08:45PM   GLUCOSE-108* UREA N-14 CREAT-0.9 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-25 ANION GAP-15
___ 08:45PM   estGFR-Using this
___ 08:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:45PM   WBC-5.9 RBC-4.72 HGB-12.9* HCT-39.6* MCV-84 
MCH-27.3 MCHC-32.6 RDW-13.2 RDWSD-40.5
___ 08:45PM   NEUTS-62.7 ___ MONOS-8.3 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-3.69 AbsLymp-1.64 AbsMono-0.49 
AbsEos-0.04 AbsBaso-0.02
___ 08:45PM   PLT COUNT-217
 
Brief Hospital Course:
This is a ___ year-old engaged, man, currently a pathology 
resident with reported past psychiatric history of depression 
and anxiety, no prior psychiatric hospitalizations or suicide 
attempts, and no significant past medical history, recently seen 
at ___ ED for severe anxiety with subsequent referral to ___, 
who self-presented to ___ ED again due to increasing panic 
attacks and frequent thoughts of self-harm in the setting of 
numerous ongoing psychosocial stressors. 
. 
History and presentation notable for history of depressive and 
anxious symptoms with most recent episode in the setting of 
numerous stressors including traumatic incident at his prior 
Ob-gyn residency, adjusting to a new residency in a large city, 
work stressors. In this setting, patient reported low mood, 
fatigue, difficulty concentrating, decreased appetite and weight 
loss, anhedonia, feelings of guilt and shame, feelings of 
hopelessness along with worsening anxiety and severe panic 
attacks. Mental status examination notable for depressed mood, 
dysthymic/dysphoric affect with patient appearing tearful and 
anxious. Thought process notably linear, logical, goal and 
future oriented. Cognitively intact. 
. 
Diagnostically, etiology of presentation is likely secondary to 
MDD, GAD, panic disorder. Given history of nightmares, 
avoidance, may meet criteria for PTSD as well. Nothing in his 
history to suggest prior manic episode and he is certainly not 
manic on my examination, nor is he psychotic. No history of 
substance use or any underlying medical conditions that would be 
likely to contribute to his current presentation.
.  
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, he signed a CV, which was accepted. Of note, 
patient maintained his safety throughout his admission on 15 
minute checks and did not require physical or chemical 
restraints. 
. 
#. Depression, anxiety: as noted above
- Patient was compliant in attending groups where he 
participated appropriately and was very active in his care 
- Due to complaints of nausea, Prozac was held during this 
admission. After discussion of the risks and benefits, we 
initiated Zoloft 25 mg po daily, titrated to 50 mg prior to 
discharge. Of note, he tolerated this well without complaints of 
side effects. 
- Clonazepam was held during this admission due to some 
complaints of sedation. After discussion of the risks and 
benefits, we started valium 2 mg po tid prn anxiety and panic 
attacks given it's rapid onset of action for panic attacks. 
Valium was titrated to 2.5- 5 mg po bid prn anxiety without 
complaints of side effects 
- For anxiety, we also discussed the risks and benefits of 
BuSpar, and patient consented to a trial. Buspar was sarted at 
7.5 mg po bid and titrated to 10 mg po bid without complaints of 
side effects
- On this regimen and in the setting of the stabilizing 
environment of the milieu, patient reported improvement in 
symptoms and consistently denied SI or thoughts of self harm and 
reported improvement in depression and anxiety. 
- Patient was agreeable to discharge home with referral back to 
___ and referral to a therapist. He will follow up with Dr. 
___ for medication management. 
. 
#. Medical: no acute issues during this hospitalization 
. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. ClonazePAM 0.5 mg PO BID PRN anxiety  

 
Discharge Medications:
1.  BusPIRone 10 mg PO BID 
RX *buspirone 10 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
2.  Diazepam 5 mg PO BID PRN panic/insomnia 
RX *diazepam 5 mg 1 tablet by mouth twice a day Disp #*28 Tablet 
Refills:*0 
3.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD
GAD
Panic disorder

 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: “okay”
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: Short and long term memory grossly intact
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___